US06630600B1
Triethylamine (0.544 g; 2.99 mmole) and thereafter methanesulfonyl chloride (0.392 g; 2.99 mmole) were added to a solution of 3-{4-[2-(4-aminophenyl)ethoxy]phenyl}-2-ethoxypropanoic acid ethyl ester (0.89 g; 2.49 mmole) in dichloromethane (8.9 ml) at 0° C. After stirring at room temperature for 20 hours the reaction mixture was poured onto a mixture of hydrochloric acid and ice. Dichloromethane was added, the phases were separated and the organic phase was washed with water, dried (sodium sulfate), filtered and the solvent was evaporated in vacuo. Purification by chromatography on silica gel using heptane:ethyl acetate (3:2) as eluant gave 0.78 g (yield 72%) of 2-ethoxy-3-{4-[2-(4-methanesulfonylaminophenyl)ethoxy]phenyl}propanoic acid ethyl ester.

reactant | Triethylamine | 2.99 mmole, 0.544 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.99 mmole, 0.392 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-{4-[2-(4-aminophenyl)ethoxy]phenyl}-2-ethoxypropanoic acid ethyl ester | 2.49 mmole, 0.89 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)N)OCC)=O | C21H27NO4
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 8.9 ml | ClCCl | CH2Cl2
product | 2-ethoxy-3-{4-[2-(4-methanesulfonylaminophenyl)ethoxy]phenyl}propanoic acid ethyl ester | 0.78 g, yield 72% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NS(=O)(=O)C)OCC)=O | C22H29NO6S
